US08034827B2
(3-[1,4′]Bipiperidinyl-1′-yl)-propylamine trihydrochloride
A mixture of (3-[1,4′]bipiperidinyl-1′-yl-propyl)-carbamic acid tert-butyl ester (2.15 g, 6.6 mmol), dry dioxane (40 mL) and 6.5 N hydrogen chloride in dioxane (22 mL) was stirred at room temperature overnight, then diluted with diethyl ether and stirred at 0° C. for 1 h. The precipitated crystals were filtered off, washed with diethyl ether and dried to yield 2.03 g (92%) of the title compound as a beige solid.

reactant | (3-[1,4′]bipiperidinyl-1′-yl-propyl)-carbamic acid tert-butyl ester | 6.6 mmol, 2.15 g | C(C)(C)(C)OC(NCCCN1CCC(CC1)N1CCCCC1)=O | C18H35N3O2
reactant | hydrogen chloride | 6.5 N | Cl | ClH
solvent | dioxane | 22 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | (3-[1,4′]Bipiperidinyl-1′-yl)-propylamine trihydrochloride | 2.03 g, 92% | Cl.Cl.Cl.N1(CCCCC1)C1CCN(CC1)CCCN | InChI=1S/C13H27N3.3ClH/c14-7-4-8-15-11-5-13(6-12-15)16-9-2-1-3-10-16;;;/h13H,1-12,14H2;3*1H
